US09079866B2
Step B: tert-Butyl 2-(2-bromophenylsulfonyl)-2-methylpropylcarbamate
A mixture of 2-(2-bromophenylsulfonyl)-2-methylpropan-1-amine (203 mg, 0.700 mmol) and di-tert-butyl dicarbonate (152 mg, 0.700 mmol) in MeOH (10 mL) was stirred at 50° C. for 6 hours, cooled to rt, and then concentrated to dryness. The resulting residue was subjected to FCC purification to give the title compound (180 mg, 65%). MS (ESI): mass calcd. for C15H22NO4S, 391.05; m/z found, 291.8 [M-Boc+H]+. 1H NMR (400 MHz, CDCl3) δ 8.05 (dd, J=7.8, 1.7, 1H), 7.80 (dd, J=7.7, 1.0, 1H), 7.56-7.50 (m, 1H), 7.52-7.42 (m, 1H), 5.51 (s, 1H), 3.52 (d, J=6.4, 2H), 1.45 (s, 9H), 1.37 (s, 6H).

reactant | 2-(2-bromophenylsulfonyl)-2-methylpropan-1-amine | 0.700 mmol, 203 mg | BrC1=C(C=CC=C1)S(=O)(=O)C(CN)(C)C | C10H14BrNO2S
reactant | di-tert-butyl dicarbonate | 0.700 mmol, 152 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 10 mL | CO | CH4O
product | tert-Butyl 2-(2-bromophenylsulfonyl)-2-methylpropylcarbamate | 180 mg, 65% | BrC1=C(C=CC=C1)S(=O)(=O)C(CNC(OC(C)(C)C)=O)(C)C | C15H22BrNO4S
